US06716851B2
4-(3-Trifluoromethoxyanilino)-6-methyl-2-(2-pyridinyl)pyrimidine
The title compound was prepared from 4-chloro-6-methyl-2-(2-pyridinyl)pyrimidine (50 mg, 0.243 mmol) and 3-(trifluoromethoxy)aniline (65 μl, 0.243 mmol) similar to Example 11 and isolated as a pale white solid (78 mg, 93%). 1H NMR (DMSO-d6): 9.95 (s, 1H), 8.74 (s, 1H), 8.31 (d, J=9.3 Hz, 2H), 7.95 (t, J=7.7 Hz, 1H), 7.65 (d, J=8.4 Hz, 1H), 7.53-7.43 (m, 2H), 6.98 (d, J=8.4 Hz, 1H), 6.71 (s, 1H), 2.44 (s, 3H).

reactant | 4-chloro-6-methyl-2-(2-pyridinyl)pyrimidine | 0.243 mmol, 50 mg | ClC1=NC(=NC(=C1)C)C1=NC=CC=C1 | C10H8ClN3
reactant | 3-(trifluoromethoxy)aniline | 0.243 mmol, 65 μl | FC(OC=1C=C(N)C=CC1)(F)F | C7H6F3NO
product | 4-(3-Trifluoromethoxyanilino)-6-methyl-2-(2-pyridinyl)pyrimidine | FC(OC=1C=C(NC2=NC(=NC(=C2)C)C2=NC=CC=C2)C=CC1)(F)F | C17H13F3N4O
